US07399867B2
Add 1-{2-[4-(2-benzyloxy-6-methoxy-naphthalen-1-yloxy)-phenoxy]-ethyl}-piperidine (12.4 g, 25.5 mmol) to a methanol/ethyl acetate mixture (1:1, 490 mL) and heat to form a solution. Remove the heat and add ammonium formate (4.83 g, 76.6 mmol) and Pd(OH)2 on Carbon (20% ww, 1.58 g, 1.12 mmol). Reflux for 50 minutes then filter the mixture. Concentrate the filtrate to provide 9.9 g of 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-naphthalene-2-ol (98.5%).

reactant | 1-{2-[4-(2-benzyloxy-6-methoxy-naphthalen-1-yloxy)-phenoxy]-ethyl}-piperidine | 25.5 mmol, 12.4 g | C(C1=CC=CC=C1)OC1=C(C2=CC=C(C=C2C=C1)OC)OC1=CC=C(OCCN2CCCCC2)C=C1 | C31H33NO4
reactant | ammonium formate | 76.6 mmol, 4.83 g | C(=O)[O-].[NH4+]
catalyst | Pd(OH)2 on Carbon | [OH-].[OH-].[Pd+2]
solvent | methanol ethyl acetate | 490 mL | CO.C(C)(=O)OCC
product | 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-naphthalene-2-ol | 9.9 g, 98.5% | COC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(C=C1)OCCN1CCCCC1)O | C24H27NO4
